US08937150B2
2,2-bis(3-bromophenyl)oxirane
KOt-Bu (2.72 g, 24.26 mmol) was added to a stirred suspension of bis(3-bromophenyl)methanone (7.5 g, 22.06 mmol) and trimethylsulfonium iodide (4.50 g, 22.06 mmol) in DMSO (20 mL) and the resulting mixture was stirred at 30° C. for 8 h. The mixture was diluted with ethyl acetate (500 mL), washed with water (500 mL×3) and brine (500 mL). The organic layer was separated and evaporated in vacuo to afford the title compound which was used directly without further purification.

reactant | KOt-Bu | 24.26 mmol, 2.72 g | CC(C)(C)[O-].[K+]
reactant | bis(3-bromophenyl)methanone | 22.06 mmol, 7.5 g | BrC=1C=C(C=CC1)C(=O)C1=CC(=CC=C1)Br | C13H8Br2O
reactant | trimethylsulfonium iodide | 22.06 mmol, 4.50 g | [I-].C[S+](C)C
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2,2-bis(3-bromophenyl)oxirane | BrC=1C=C(C=CC1)C1(OC1)C1=CC(=CC=C1)Br | C14H10Br2O
